US04931452
Preparation of 3-Cyano-2-methoxy-5-(trifluoromethyl)pyridine
2-Methoxy-5-(trifluoromethyl)-3-pyridinecarboxaldehyde oxime (3.9 g, 0.018 mol) was added to a mixture of 1.9 ml (0.020 mol) of phosphorus oxychloride in 20 ml of acetonitrile and the resulting mixture heated at reflux with stirring for 1 hour. It was then allowed to cool and was poured onto ice. The mixture obtained was extracted several times with methylene chloride and the combined extracts were in turn extracted with saturated aqueous sodium chloride. The methylene chloride solution was dried over sodium sulfate and concentrated by evaporation under reduced pressure to obtain 3.2 g (89 percent of theory of the title compound as a yellow oil which solidified on standing. The proton nmr spectrum was consistent with the assigned structure.

reactant | 2-Methoxy-5-(trifluoromethyl)-3-pyridinecarboxaldehyde oxime | 0.018 mol, 3.9 g | COC1=NC=C(C=C1C=NO)C(F)(F)F | C8H7F3N2O2
reactant | phosphorus oxychloride | 0.020 mol, 1.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-Cyano-2-methoxy-5-(trifluoromethyl)pyridine | C(#N)C=1C(=NC=C(C1)C(F)(F)F)OC | C8H5F3N2O
